US06982278B2
2-(2-Phenyl-5-propyloxazol-4-yl)ethanol
4-(2-Benzyloxyethyl)-2-phenyl-5-propyloxazole (340 mg, 1.05 mmol) was dissolved in THF (5 mL) and treated with Pearlman's catalyst (170 mg). The solution was stirred vigorously under a hydrogen atmosphere (1 atm) for 90 min, and then the mixture was filtered through celite. The celite was rinsed with CH2Cl2 and the solution dried (MgSO4), filtered and concentrated to a clear, colorless oil: Rf=0.25 in 60% EtOAc/hexanes; 1H NMR (300 MHz, CDCl3) δ 8.00-7.96 (m, 2H), 7.44-7.22 (m, 2H), 3.92 (br s, 2H), 2.73 (t, J=5.5 Hz, 2H), 2.65 (t, J=7.0 Hz, 2H) 1.70 (sextet, J=7.0 Hz, 2H), 0.98 (t, J=7.0 Hz, 3H).

reactant | 4-(2-Benzyloxyethyl)-2-phenyl-5-propyloxazole | 1.05 mmol, 340 mg | C(C1=CC=CC=C1)OCCC=1N=C(OC1CCC)C1=CC=CC=C1 | C21H23NO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Pearlman's catalyst | 170 mg | [OH-].[OH-].[Pd+2]
product | 2-(2-Phenyl-5-propyloxazol-4-yl)ethanol | C1(=CC=CC=C1)C=1OC(=C(N1)CCO)CCC | C14H17NO2
